US03994885
According to the procedure described by Example 4, 479 mg. of 2,2,2-trichloroethyl 3-methyl-7-phenoxyacetamido-3-cephem-4-carboxylate was reacted with methanol, methyl lithium and t-butyl hypochlorite in anhydrous tetrahydrofuran at -80° C. to provide 2,2,2-trichloroethyl 3-methyl-7-methoxy-7-phenoxy-acetamido-3-cephem-4-carboxylate.

reactant | 2,2,2-trichloroethyl 3-methyl-7-phenoxyacetamido-3-cephem-4-carboxylate | CC=1CS[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(COC2=CC=CC=C2)=O)=O | C18H17Cl3N2O5S
reactant | methanol | CO | CH4O
reactant | methyl lithium | C[Li]
reactant | t-butyl hypochlorite | ClOC(C)(C)C | C4H9ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,2,2-trichloroethyl 3-methyl-7-methoxy-7-phenoxy-acetamido-3-cephem-4-carboxylate | CC=1C(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2(OC2=CC=CC=C2)OC)=O)NC(C)=O | C19H19Cl3N2O6S
